US06121264
With ice-cooling, 4-aminobutanol (0.72 g) dissolved in ethanol (5 ml) was added dropwise to ethanol (10 ml) solution of 1,5-difluoro-2-nitro-4-trifluoromethylbenzene (0.73 g), and the reaction was carried out overnight at room temperature. The reaction solution was concentrated and the resulting residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=1:1) to give 4-(5-fluoro-2-nitro-4-trifluoromethylanilino)butanol (0.76 g). The resulting anilinobutanol (0.66 g) and imidazole (1.5 g) were allowed to react with each other in DMF (10 ml) at 140° C. for 1 hour, the reaction solution was concentrated and then the resulting residue was purified by a silica gel column chromatography (chloroform:methanol =15:1) to give 4-[5-(1H-imidazol-1-yl)-2-nitro-4-trifluoromethylanilino)butanol (0.68 g).

reactant | 4-aminobutanol | 0.72 g | NCCCCO | C4H11NO
reactant | 1,5-difluoro-2-nitro-4-trifluoromethylbenzene | 0.73 g | FC1=C(C=C(C(=C1)F)C(F)(F)F)[N+](=O)[O-] | C7H2F5NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(5-fluoro-2-nitro-4-trifluoromethylanilino)butanol | 0.76 g | FC=1C(=CC(=C(NCCCCO)C1)[N+](=O)[O-])C(F)(F)F | C11H12F4N2O3
